**********
* Copyright Intusoft 1997
* All Rights Reserved
**********
******************
*SRC=FTUBE;FTUBE;Tubes;Fluorescent;
*SYM=FLUOR
* FLUORESCENT TUBE MODEL
* DEVELOPED BY CHRISTOPHE BASSO
*
* LAST MODIFIED: MARCH 9th 97
*
.SUBCKT FTUBE 1  2  3  4 {VTHRES=250 VARC=50 ISUS=100M}
*Connections: F1 F1 F2 F2
*Parameters:
* VTHRES = COLD VOLTAGE AT WHICH THE LAMP STRIKES in Volts
* THIS VALUE DIMINISHES IF CURRENT FIRST FLOWS VIA FILAMENTS
* VARC = VOLTAGE CORRESPONDING TO THE LAMP ARC VOLTAGE in Volts
* ISUS = CURRENT UNDER WHICH THE ARC IS STOPPED in Amps
*
RDUM1 2 4 100MEG
VDUM 1 10		   ; Lamp current measurement
RFIL1 1 20 2.5	   ; Filament resistance 1
VFIL 20 2		   ; Filament current measurement
RFIL2 3 4 2.5	   ; Filament resistance 2
CPAR  1 3 1P	   ; Open-lamp capacitance
RLEAK 1 3 10MEG	   ; Leakage current
RNEG 10 11 -0.2	   ; Negative behavior once struck
DTRK1 12 11 DCLAMP ; Lamp voltage once struck, polar +
DSRK2 12 16 DCLAMP ; Lamp voltage once struck, polar -
* RSTK 11 16 190   ; For pure resistive behavior
CARC 1 16 100P     ; Arc capacitance
X1 16 3 13 SWITCH
BARC 15 0 V = ABS(V(1,3)) > {VTHRES} ? 100V : ABS(I(VDUM)) > {ISUS} ? 100V : 
+ ABS(V(1,3)) > V(14) ? 100V : V(19) > 3V ? 100V : 10N
RDEL 15 13 100
CDEL 15 13 10P
* OPERATING VOLTAGE ONCE STRUCK *
CDIF 13 17 1N
RDIF 17 0 10K
BDIF 18 0 V = V(17) > 10 ? 100 : ABS(I(VDUM)) > {ISUS} ? 10 : 0
RINT 18 19 50K	; time constant approximation
CINT 19 0 3NF
* PREHEATING SECTION *
BPRE 14 0 I = V(14) > {VTHRES/2} ? ABS(I(VFIL)) : 0
CPRE 14 0 50U IC={VTHRES}
RDUM2 14 0 100MEG
.MODEL DCLAMP D BV={VARC}
.MODEL DDIS D RS=10
.ENDS
.SUBCKT SWITCH 1 2 3
R1 1 2 1E10
G1 1 2 POLY(2) 1 2 3 0 0 0 0 0 1
.ENDS
********


